US07649104B2
In a 3 L-reaction flask, 156.8 g (0.45 mol) of 3-oxo-2-(2-phenyl-5-ethyl-1,2,3-triazol-4-yl)-3-(1,3,4-trimethylpyrazol-5-yl)propionitrile and 900 g of xylene were added, the temperature was raised to 70° C., and 162.7 g (1.35 mol) of pivaloyl chloride was added dropwise under reflux over 10 hours while removing hydrogen chloride under a reduced pressure at 68 to 71° C./10 to 13 kPa. After reacting as such for 5 hours, 740 g of a mixture of pivaloyl chloride and xylene was distilled off at 70° C. under a reduced pressure in order to remove excess pivaloyl chloride. After adding 156 g of warm water of 70° C., 70 g of 2.7% sodium hydrogen carbonate aqueous solution was added dropwise. After separating the resulting aqueous phase, the resulting organic phase was washed with 156 g of warm water of 70° C., the resulting aqueous phase was separated to obtain a xylene solution containing 181 g (yield 93.0%) of (2E)-3-(2,2-dimethylpropanoyloxy)-2-(2-phenyl-5-ethyl-1,2,3-triazol-4-yl)-3-(1,3,4-trimethylpyrazol-5-yl)acrylonitrile. After distilling off most of xylene at 90° C. under a reduced pressure, 540 g of acetonitrile was added, and crystallization was carried out by gradually cooling from 70° C. After stirring at 0° C. for 1 hour, the resulting crystal was filtered, and dried to obtain 163.5 g (yield 84%) of (2E)-3-(2,2-dimethylpropanoyloxy)-2-(2-phenyl-5-ethyl-1,2,3-triazol-4-yl)-3-(1,3,4-trimethylpyrazol-5-yl)acrylonitrile (melting point: 119° C.).

reactant | 3-oxo-2-(2-phenyl-5-ethyl-1,2,3-triazol-4-yl)-3-(1,3,4-trimethylpyrazol-5-yl)propionitrile | 0.45 mol, 156.8 g | O=C(C(C#N)C1=NN(N=C1CC)C1=CC=CC=C1)C1=C(C(=NN1C)C)C | C19H20N6O
reactant | pivaloyl chloride | 1.35 mol, 162.7 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | xylene | 900 g | C=1(C(=CC=CC1)C)C | C8H10
product | (2E)-3-(2,2-dimethylpropanoyloxy)-2-(2-phenyl-5-ethyl-1,2,3-triazol-4-yl)-3-(1,3,4-trimethylpyrazol-5-yl)acrylonitrile | 181 g, yield 93.0% | CC(C(=O)O/C(=C(/C#N)\C1=NN(N=C1CC)C1=CC=CC=C1)/C1=C(C(=NN1C)C)C)(C)C | C24H28N6O2
